data/rdb19/train.csv
rxn,smiles,ea
1228,[C:14]([C:15]([C:16]([C:17]([H:27])([H:28])[H:29])([N:18]([C:19](=[O:20])[H:31])[H:30])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]1([H:4])([C:5](=[O:6])[O:7][H:13])[C:19]([N:18]([C:16]([C:15]([C:14]([H:21])([H:22])[H:23])([H:24])[H:25])([C:17]([H:27])([H:28])[H:29])[H:26])[H:30])([H:31])[O:20]1,87.7606423078687
3589,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([C:19]([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:20]([H:33])([H:34])[H:35],73.8909789219615
370,[C:4](=[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:6]1([C:5](=[C:4]([H:12])[H:13])[H:14])[C:7]([H:15])[C:8]([H:16])=[C:9]([H:17])[C:10]([H:18])=[C:11]1[H:19])[H:3],29.44769075064687
27,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])[H:22].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:23])([H:6])([H:7])[H:8],31.15966556686908
992,[C:14]([C:15](=[C:16]([H:21])[H:22])[C:17]([H:23])([H:24])[H:25])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:15]([C:14]([H:18])([H:19])[H:20])[C:17]([H:23])([H:24])[H:25])([H:21])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],15.501300564792473
3537,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][H:23],52.942375331011135
3476,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:19]([O:18][C:17]([H:21])([H:22])[H:23])([C:20]([H:25])[H:26])[H:24])([H:9])[H:10])([H:6])([H:7])[H:8],20.30767670102068
330,[C:4]([C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1][H:3].[O:2]1[C:7]([C:5]([C:4]([H:10])([H:11])[H:12])=[C:6]([H:13])[H:14])([O:9][H:15])[O:8]1,69.06788056093501
1521,[C:10]([C:11]([C:12]([H:13])[H:14])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[H:14])[O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:22])[H:7])[H:6],30.385169850836974
4507,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3][H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17],25.882302623882424
4886,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15](=[C:16]([N:17]([C:18]=[O:19])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[H:24])[H:11])([H:8])([H:9])[H:10],16.113791405048687
1948,[C:11]([C:12]([H:13])[H:14])([H:15])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11](=[C:12]([H:13])[H:14])([H:16])[H:17].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:15])([H:6])[H:7],35.2864744970575
